US07449486B2
Step B: Preparation of (2S)-1-(2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-oxadiazol-3(2H)-yl)-2-methoxypropan-1-one:
To a solution of N′-(4-azido-1-phenylbutylidene)-2,5-difluorobenzohydrazide (100 mg, 0.29 mmol), prepared as in Example 85, Step A, in DCE (1 mL) was added (S)-2-methoxypropanoic anhydride from the previous step (277 mg, 1.46 mmol). After stirring at reflux for 48 hours the crude mixture was chromatographed (CH2Cl2 to 2.5% MeOH/CH2Cl2) to afford the product (81 mg, 65%) as a clear oil.

reactant | N′-(4-azido-1-phenylbutylidene)-2,5-difluorobenzohydrazide | 0.29 mmol, 100 mg | N(=[N+]=[N-])CCCC(C1=CC=CC=C1)=NNC(C1=C(C=CC(=C1)F)F)=O | C17H15F2N5O
reactant | (S)-2-methoxypropanoic anhydride | CO[C@H](C(=O)OC([C@H](C)OC)=O)C | C8H14O5
solvent | DCE | 1 mL | ClCCCl | C2H4Cl2
product | (2S)-1-(2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-oxadiazol-3(2H)-yl)-2-methoxypropan-1-one | 81 mg, 65% | N(=[N+]=[N-])CCCC1(OC(=NN1C([C@H](C)OC)=O)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C21H21F2N5O3
